US07691882B2
3-(4-Bromo-pyrazol-1-yl)-pyridin-2-ylamine
A mixture of N-(3-(4-bromo-pyrazol-1-yl)-pyridin-2-yl)-2,2-dimethyl-propionamide (380 mg, 1.2 mmol) described in Manufacturing Example 39-1-3 and aqueous 2.5 N hydrochloric acid solution (2 mL) was stirred overnight at 105° C. The reaction mixture was cooled to 0° C., and 5 N sodium hydroxide solution (1 mL) was added. The resulting solids were filtered to obtain the title compound (100 mg, 72%).

reactant | N-(3-(4-bromo-pyrazol-1-yl)-pyridin-2-yl)-2,2-dimethyl-propionamide | 1.2 mmol, 380 mg | BrC=1C=NN(C1)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C13H15BrN4O
reactant | hydrochloric acid | 2.5 N, 2 mL | Cl | ClH
reactant | sodium hydroxide | 5 N, 1 mL | [OH-].[Na+]
product | 3-(4-Bromo-pyrazol-1-yl)-pyridin-2-ylamine | 100 mg, 72% | BrC=1C=NN(C1)C=1C(=NC=CC1)N | C8H7BrN4
